US06730674B2
Step 3: 6-(4-Bromo-2-fluoro-benzenesulfonyl)-2H-pyridazin-3-one.
A mixture of 3-(4-bromo-2-fluoro-benzenesulfonyl)-6-methoxy-pyridazine (260 mg), dioxane (5 mL), and concentrated hydrochloric acid (1 mL) was prepared and refluxed for two hours. The reaction mixture was then evaporated to dryness. The resulting residue was triturated with water and the precipitated solid was collected and air-dried to obtain the title compound (90%, 225 mg); mp, >220° C.; NMR 7.05 (d, 1H), 7.7 (d, 1H), 7.9 (m, 3H), 13.8 (s, 1H).

reactant | 3-(4-bromo-2-fluoro-benzenesulfonyl)-6-methoxy-pyridazine | 260 mg | BrC1=CC(=C(C=C1)S(=O)(=O)C=1N=NC(=CC1)OC)F | C11H8BrFN2O3S
reactant | hydrochloric acid | 1 mL | Cl | ClH
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 6-(4-Bromo-2-fluoro-benzenesulfonyl)-2H-pyridazin-3-one | 225 mg, 90% | BrC1=CC(=C(C=C1)S(=O)(=O)C=1C=CC(NN1)=O)F | C10H6BrFN2O3S
